US08536209B2
5-Phenyl-oxazole-4-carboxylic acid [2-(5,5-difluoro-hexyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A, starting from 2-(5,5-difluoro-hexyl)-2H-[1,2,3]triazol-4-ylamine and 5-phenyl-oxazole-4-carboxylic acid.

reactant | 2-(5,5-difluoro-hexyl)-2H-[1,2,3]triazol-4-ylamine | FC(CCCCN1N=CC(=N1)N)(C)F | C8H14F2N4
reactant | 5-phenyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C1=C(N=CO1)C(=O)O | C10H7NO3
product | 5-Phenyl-oxazole-4-carboxylic acid [2-(5,5-difluoro-hexyl)-2H-[1,2,3]triazol-4-yl]-amide | FC(CCCCN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC=CC=C1)(C)F | C18H19F2N5O2
